US07018988B2
(3EZ,5S)-5-[(4-hydroxy-4-phenyl-1-piperdinyl]carbonyl]-1-[4-(4-pyridinyl)benzoyl]-3-pyrrolidinone O-methyloxime
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 4-(4-pyridinyl)benzoic acid, and 4-phenyl-4-piperidinol, the title compound was obtained in 78% purity by HPLC. MS(ESI+): m/z=499.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 4-(4-pyridinyl)benzoic acid | N1=CC=C(C=C1)C1=CC=C(C(=O)O)C=C1 | C12H9NO2
reactant | 4-phenyl-4-piperidinol | C1(=CC=CC=C1)C1(CCNCC1)O | C11H15NO
product | (3EZ,5S)-5-[(4-hydroxy-4-phenyl-1-piperdinyl]carbonyl]-1-[4-(4-pyridinyl)benzoyl]-3-pyrrolidinone O-methyloxime | CON=C1CN([C@@H](C1)C(=O)N1CCC(CC1)(C1=CC=CC=C1)O)C(C1=CC=C(C=C1)C1=CC=NC=C1)=O | C29H30N4O4
